US06987114B1
1) 1-Allyl-5-ethyl-6-(3,5-dimethylphenoxy)-2,4-pyrimidinedione
To a solution of 5-ethyl-6-(3,5-dimethylphenoxy)-2,4-pyrimidinedione (258 mg, 1.0 mmol) and allyl bromide(121 mg, 1.0 mmol) dissolved in dimethylformamide(5 ml), sodium bicarbonate(126 mg, 1.50 mmol) and lithium iodide(13.0 mg, 0.10 mmol) were added and stirred at 90° C. for 24 hours. The resulting product was distilled under the reduced pressure to remove dimethylformamide and purified by column chromatography to obtain the titled compound as a white solid(157 mg, yield: 52.3%).

reactant | 5-ethyl-6-(3,5-dimethylphenoxy)-2,4-pyrimidinedione | 1.0 mmol, 258 mg | C(C)C=1C(NC(NC1OC1=CC(=CC(=C1)C)C)=O)=O | C14H16N2O3
reactant | allyl bromide | 1.0 mmol, 121 mg | C(C=C)Br | C3H5Br
reactant | sodium bicarbonate | 1.50 mmol, 126 mg | C([O-])(O)=O.[Na+]
reactant | lithium iodide | 0.10 mmol, 13.0 mg | [I-].[Li+]
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 1-Allyl-5-ethyl-6-(3,5-dimethylphenoxy)-2,4-pyrimidinedione | 157 mg, yield: 52.3% | C(C=C)N1C(NC(C(=C1OC1=CC(=CC(=C1)C)C)CC)=O)=O | C17H20N2O3
